US04278676
(d) Methyl 3-hydroxy-4,5,6,7-tetrahydroisoxazolo[5,4-c]pyridine-6-carboxylate (Va).
A solution of 1-methoxycarbonyl-3-oxopiperidine-4-carbohydroxamic acid ethylene acetal (750 mg; 2.9 mmol) in concentrated hydrochloric acid (13 ml) was heated to 70° C. for 10 minutes. The mixture was evaporated in vacuo to give a black oil. CC [silica gel (Woelm 0.063-0.1 mm): 60 g; eluents: benzene to which ethyl acetate (40-70%) and formic acid (1%) was added] gave crystalline and TLC-pure Va (244 mg; 43%) [RF : 0.27; eluent: benzene-ethyl acetate-formic acid (50:50:1)]. An analytical sample was recrystallized (benzene-cyclohexane) to give pure Va as colourless crystals, m.p. 136.0-138.0° C. IR (KBr): 3700-3300 (m), 3300-2500 (several bands, w-m), 1655 (s), 1525 (m), 1490 (s) cm-1. UV [methanol (log ε)]: 212 (3.64) nm. 1H NMR (CDCl3): δ10.6 (1H, (s), 4.43 (2H, s), 3.70 (s) and 3.8-3.5 (t) (a total of 5H), 2.6-2.3 (2H, t).

reactant | 1-methoxycarbonyl-3-oxopiperidine-4-carbohydroxamic acid ethylene acetal | 2.9 mmol, 750 mg | C1COC(NO)(C2C(CN(CC2)C(=O)OC)=O)O1 | C10H16N2O6
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | KBr | [K+].[Br-]
solvent | hydrochloric acid | 13 ml | Cl | ClH
solvent | methanol | CO | CH4O
solvent | benzene ethyl acetate formic acid | C1=CC=CC=C1.C(C)(=O)OCC.C(=O)O
solvent | formic acid | C(=O)O | CH2O2
product | Methyl 3-hydroxy-4,5,6,7-tetrahydroisoxazolo[5,4-c]pyridine-6-carboxylate | OC1=NOC=2CN(CCC21)C(=O)OC | C8H10N2O4
